US04621084
A solution of 5-bromoacetyl-2-benzothiazolinone (3.3 g) and 2-aminopyridine (4.2 g) in ethanol was refluxed for 5 hours and the reaction mixture was evaporated in vacuo. To the residue was added a mixture of water and ethyl acetate and the resulting mixture was acidified to pH 1.0 with 10 % hydrochloric acid. The precipitate was collected by filtration and added to a solution of saturated aqueous sodium bicarbonate. The mixture was stirred for 30 minutes. The precipitate was collected by filtration, washed with water and recrystallized from aqueous ethanol to give 5-(imidazo[1,2-a]pyridin-2-yl)-2-benzothiazolinone (0.24 g). mp>270° C.

reactant | 5-bromoacetyl-2-benzothiazolinone | 3.3 g | BrCC(=O)C=1C=CC2=C(NC(S2)=O)C1 | C9H6BrNO2S
reactant | 2-aminopyridine | 4.2 g | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | C(C)O | C2H6O
product | 5-(imidazo[1,2-a]pyridin-2-yl)-2-benzothiazolinone | 0.24 g | N=1C(=CN2C1C=CC=C2)C=2C=CC1=C(NC(S1)=O)C2 | C14H9N3OS
